US07888364B2
175 μL of 1-iodo-2-methylpropane and 740 mg of Cesium Carbonate were added to 200 mg of methyl 2-chloro-4-(methylsulfonamido)benzoate in 2 mL of DMF and stirred in the microwave at 140° C. for 30 minutes. The reaction mixture was extracted in Ethyl Acetate twice with water, dried over Magnesium Sulfate, filtered, concentrated and purified on ISCO Combi-Flash to give methyl 2-chloro-4-(N-isobutylmethylsulfonamido)benzoate. 120 mg of methyl 2-chloro-4-(N-isobutylmethylsulfonamido)benzoate was hydrolyzed via Procedure M to yield 110 mg of crude 2-chloro-4-(N-isobutylmethylsulfonamido)benzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(N-isobutylmethylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-isobutylmethylsulfonamido)benzamide. MS (Q1) 492 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(N-isobutylmethylsulfonamido)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)N(S(=O)(=O)C)CC(C)C | C12H16ClNO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-isobutylmethylsulfonamido)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)N(S(=O)(=O)C)CC(C)C | C23H23Cl2N3O3S
